US08809369B2
To a suspension of 60% sodium hydride (198 mg, 4.95 mmol) in N,N-dimethylformamide (2 mL) was added methanesulfonamide (475 mg, 5 mmol) at room temperature. The resulting mixture was stirred at 25° C. for 1 h to afford Solution A20. A solution of 4,4-dimethyl-2-(3-phenylcarbamoyl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (400 mg, 1 mmol) and 1,1′-carbonyldiimidazole (324 mg, 2 mmol) in N,N-dimethylformamide (2 mL) was stirred at 70° C. for 1 h and cooled to room temperature to afford Solution B20. Solution B20 was added to Solution A20 and the resulting mixture was stirred at 25° C. for 1 h. To the reaction mixture was added water (0.5 mL). The mixture was filtered to remove the insoluble solid, and the filtrate was purified by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 3-(6-methanesulfonylaminocarbonyl-4,4-dimethyl-1,2,3,4-tetrahydro-quinolin-2-yl)-N-phenyl-benzamide (35 mg, 7%) as a white solid: MS (ESI) M+1=478.2.

reactant | sodium hydride | 4.95 mmol, 198 mg | [H-].[Na+]
reactant | methanesulfonamide | 5 mmol, 475 mg | CS(=O)(=O)N | CH5NO2S
reactant | 4,4-dimethyl-2-(3-phenylcarbamoyl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 1 mmol, 400 mg | CC1(CC(NC2=CC=C(C=C12)C(=O)O)C1=CC(=CC=C1)C(NC1=CC=CC=C1)=O)C | C25H24N2O3
reactant | 1,1′-carbonyldiimidazole | 2 mmol, 324 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | 0.5 mL | O | H2O
product | 3-(6-methanesulfonylaminocarbonyl-4,4-dimethyl-1,2,3,4-tetrahydro-quinolin-2-yl)-N-phenyl-benzamide | 35 mg, 7% | CS(=O)(=O)NC(=O)C=1C=C2C(CC(NC2=CC1)C=1C=C(C(=O)NC2=CC=CC=C2)C=CC1)(C)C | C26H27N3O4S
